US04346248
226.5 gm (1.0 mol) of 1,2,4-trichloronitrobenzene were dissolved in 226 gm of isopropanol and hydrogenated in the presence of 6.1 gm of wet 1% Platinum on charcoal at 100° C. and 100-200 psig over a 90 minutes period. The reaction mixture was filtered to remove the catalyst and the clear solution was slowly dropped into a hot solution of 1125 gm of H2O and 500 gm of phosphoric acid (5.0 mols) under vacuum to remove the isopropanol by distillation. The finely divided 2,4,5-trichloroaniline phosphate slurry was then cooled to -5° C. with good agitation and 56.9 gm (0.95 mol) of NaNO2 in 125 ml of water were added over a 15 minute period while maintaining a maximum temperature of +5° C. After 30 minutes of agitation, the reaction mixture was filtered to remove an insoluble impurity. The resulting 2,4,5-trichlorobenzenediazonium phosphate solution was then added cold (0° ±5° C.) to a boiling solution of 1000 gm of cupric sulfate heptahydrate in 2000 ml of water. As the product was formed, it was removed from the zone of reaction by steam distillation. The product in the steam distillate was extracted with two 300 ml aliquots of methylene chloride and stripped to dryness to obtain 115 gm of crude 2,4,5-trichlorophenol (0.58 mol) which analyzed to be 94.8% pure. This product was then added to a slurry of 68.0 gms (0.58 mol) of monochloroacetic acid in 190 ml of toluene and 125 ml of hydrocarbon solvent and reacted with 104.3 (1.31 moles) of 50% sodium hydroxide over a 10 minute period of time at 60°-92° C. After 15 minutes of agitation, the exothermic reaction was finished and 160 gm of a 20% hydrochloric acid solution were added to a pH of less than 2.0. Another 31 gm of toluene were added at 80°-84° C. and the organic layer was collected, cooled, filtered, washed with 30 ml of cold hydrocarbon solvent, and collected to give 80.0 gm (0.32 mol) of dry 2,4,5-trichlorophenoxyacetic acid (m.p.=148°-153° C.).

reactant | 1,2,4-trichloronitrobenzene | 1.0 mol, 226.5 gm | ClC1=C(C(=C(C=C1)Cl)[N+](=O)[O-])Cl | C6H2Cl3NO2
reactant | phosphoric acid | 5.0 mols, 500 gm | P(O)(O)(O)=O | H3O4P
reactant | 2,4,5-trichloroaniline phosphate | P(=O)(O)(O)O.ClC1=C(N)C=C(C(=C1)Cl)Cl
reactant | NaNO2 | 0.95 mol, 56.9 gm | N(=O)[O-].[Na+]
solvent | isopropanol | 226 gm | C(C)(C)O | C3H8O
catalyst | Platinum on charcoal | [Pt] | Pt
solvent | water | 125 ml | O | H2O
solvent | H2O | 1125 gm | O | H2O
product | 2,4,5-trichlorophenol | 0.58 mol, 115 gm | ClC1=C(C=C(C(=C1)Cl)Cl)O | C6H3Cl3O
